US08008298B2
3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-benzenesulfonamide was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and (3-aminosulfonylphenyl)Boronic Acid following general procedures as described in these Examples. Silica gel chromatography using 20-100% EtOAc in hexanes as eluant provided 60 mg (37%) of a pale yellow solid. MP 275-277° C., M+H=359.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | (3-aminosulfonylphenyl)Boronic Acid | NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C6H8BNO4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[7-(2,2-Dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-benzenesulfonamide | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=C(C=CC2)S(=O)(=O)N)(C)C | C17H18N4O3S
